US07125900B2
N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-4-(3-chloro-2-cyanophenoxy)benzenesulfonamide
The tide compound was prepared from 5-acetyl-2-amino-4-methylthiazole and 4-(3-chloro-2-cyanophenoxy)benzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (9.9 mg) with purity >90%. LCMS (pos) m/z 448.0; LCMS (neg) m/z 446.0.

reactant | 5-acetyl-2-amino-4-methylthiazole | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 4-(3-chloro-2-cyanophenoxy)benzenesulfonyl chloride | ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=CC1)C#N | C13H7Cl2NO3S
product | N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-4-(3-chloro-2-cyanophenoxy)benzenesulfonamide | 9.9 mg | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C1=CC=C(C=C1)OC1=C(C(=CC=C1)Cl)C#N)C | C19H14ClN3O4S2
